US07622471B2
4-(4-Methylthio-2-pyridyl)-2,4-dioxobutanoic acid ethyl ester
The general procedure of Referential Example 17 was repeated through use of 1-(4-methylthio-2-pyridyl)ethanone (1.76 g) and diethyl oxalate (2.86 mL), to thereby give the title compound as a solid (1.64 g, 58%).

reactant | 1-(4-methylthio-2-pyridyl)ethanone | 1.76 g | CSC1=CC(=NC=C1)C(C)=O | C8H9NOS
reactant | diethyl oxalate | 2.86 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 4-(4-Methylthio-2-pyridyl)-2,4-dioxobutanoic acid ethyl ester | 1.64 g, 58% | C(C)OC(C(CC(=O)C1=NC=CC(=C1)SC)=O)=O | C12H13NO4S
